* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.000516539975784614
Fd1_1 0 s1 V1 -0.025826998789230702
Gr1_1_1 0 s1 x1_a1 0 28853559371.831444
Gr2_1_1 0 s1 x2_a1 0 -106115369549.89201
Gr3_1_1 0 s1 x3_a1 0 16359192184.028524
Gr4_re_1_1 0 s1 x4_re_a1 0 2465433.687421362
Gr4_im_1_1 0 s1 x4_im_a1 0 2644748.9944179617
Gr5_re_1_1 0 s1 x5_re_a1 0 803314.4539543062
Gr5_im_1_1 0 s1 x5_im_a1 0 4441305.270418284
Gr6_re_1_1 0 s1 x6_re_a1 0 7522951.542833377
Gr6_im_1_1 0 s1 x6_im_a1 0 9500981.20817732
Gr7_re_1_1 0 s1 x7_re_a1 0 -752906.6654503783
Gr7_im_1_1 0 s1 x7_im_a1 0 1475641.8115479904
Gr8_re_1_1 0 s1 x8_re_a1 0 -875470.6082439742
Gr8_im_1_1 0 s1 x8_im_a1 0 790150.8816810532
Gr9_1_1 0 s1 x9_a1 0 2.6038677754156337e-19
Gr10_1_1 0 s1 x10_a1 0 3.445377514053203e-47
Gd1_2 0 s1 p2 0 -0.0005126878065397067
Fd1_2 0 s1 V2 -0.025634390326985335
Gr1_1_2 0 s1 x1_a2 0 13893920479.997831
Gr2_1_2 0 s1 x2_a2 0 -29424751752.694523
Gr3_1_2 0 s1 x3_a2 0 15504277204.735426
Gr4_re_1_2 0 s1 x4_re_a2 0 -304075.7308786735
Gr4_im_1_2 0 s1 x4_im_a2 0 1337683.207825448
Gr5_re_1_2 0 s1 x5_re_a2 0 -1332814.0674733033
Gr5_im_1_2 0 s1 x5_im_a2 0 720318.5777732697
Gr6_re_1_2 0 s1 x6_re_a2 0 -3004054.4378769216
Gr6_im_1_2 0 s1 x6_im_a2 0 3368665.6895485586
Gr7_re_1_2 0 s1 x7_re_a2 0 -427293.4541400605
Gr7_im_1_2 0 s1 x7_im_a2 0 -912936.4332969454
Gr8_re_1_2 0 s1 x8_re_a2 0 -180568.6080497983
Gr8_im_1_2 0 s1 x8_im_a2 0 -35884.412882311975
Gr9_1_2 0 s1 x9_a2 0 1.2959644295318017e-19
Gr10_1_2 0 s1 x10_a2 0 1.7147901082684378e-47
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.0825505130486935e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 3.97907149759213e-12
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 2.298599682055234e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.1540636576382654e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 57392887663.09909
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -57392887663.09909
Rp4_im_im_a1 0 x4_im_a1 1.1540636576382654e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.0060478297984493e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 49729529935.28354
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -49729529935.28354
Rp5_im_im_a1 0 x5_im_a1 1.0060478297984493e-09
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 4.564468597951206e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 44342619412.02872
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -44342619412.02872
Rp6_im_im_a1 0 x6_im_a1 4.564468597951206e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.5667721634228807e-09
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 26026752255.185856
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -26026752255.185856
Rp7_im_im_a1 0 x7_im_a1 1.5667721634228807e-09
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 9.023159406127145e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 16061967330.314383
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -16061967330.314383
Rp8_im_im_a1 0 x8_im_a1 9.023159406127145e-09
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 172926.1043144081
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 1.5033206177177289e+19
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.0005126878065397067
Fd2_1 0 s2 V1 -0.025634390326985335
Gr1_2_1 0 s2 x1_a1 0 13893920479.997831
Gr2_2_1 0 s2 x2_a1 0 -29424751752.694523
Gr3_2_1 0 s2 x3_a1 0 15504277204.735426
Gr4_re_2_1 0 s2 x4_re_a1 0 -304075.73087867483
Gr4_im_2_1 0 s2 x4_im_a1 0 1337683.207825448
Gr5_re_2_1 0 s2 x5_re_a1 0 -1332814.067473304
Gr5_im_2_1 0 s2 x5_im_a1 0 720318.5777732698
Gr6_re_2_1 0 s2 x6_re_a1 0 -3004054.4378769216
Gr6_im_2_1 0 s2 x6_im_a1 0 3368665.6895485576
Gr7_re_2_1 0 s2 x7_re_a1 0 -427293.45414005994
Gr7_im_2_1 0 s2 x7_im_a1 0 -912936.4332969453
Gr8_re_2_1 0 s2 x8_re_a1 0 -180568.6080497982
Gr8_im_2_1 0 s2 x8_im_a1 0 -35884.41288231192
Gr9_2_1 0 s2 x9_a1 0 1.2959644295318033e-19
Gr10_2_1 0 s2 x10_a1 0 1.7147901082684398e-47
Gd2_2 0 s2 p2 0 -0.0004828426149860514
Fd2_2 0 s2 V2 -0.02414213074930257
Gr1_2_2 0 s2 x1_a2 0 321738157018.2077
Gr2_2_2 0 s2 x2_a2 0 -257183890053.33475
Gr3_2_2 0 s2 x3_a2 0 15927075598.27808
Gr4_re_2_2 0 s2 x4_re_a2 0 -1066174.0125162106
Gr4_im_2_2 0 s2 x4_im_a2 0 -1783585.777265615
Gr5_re_2_2 0 s2 x5_re_a2 0 545452.551733427
Gr5_im_2_2 0 s2 x5_im_a2 0 -1978635.3313597261
Gr6_re_2_2 0 s2 x6_re_a2 0 -1063004.0863986365
Gr6_im_2_2 0 s2 x6_im_a2 0 -4595983.513383135
Gr7_re_2_2 0 s2 x7_re_a2 0 965517.1685517175
Gr7_im_2_2 0 s2 x7_im_a2 0 -53996.57116098181
Gr8_re_2_2 0 s2 x8_re_a2 0 961.945849800653
Gr8_im_2_2 0 s2 x8_im_a2 0 109770.51453715602
Gr9_2_2 0 s2 x9_a2 0 6.082782615430522e-19
Gr10_2_2 0 s2 x10_a2 0 8.048597030904438e-47
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.0825505130486935e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 3.97907149759213e-12
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 2.298599682055234e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.1540636576382654e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 57392887663.09909
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -57392887663.09909
Rp4_im_im_a2 0 x4_im_a2 1.1540636576382654e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.0060478297984493e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 49729529935.28354
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -49729529935.28354
Rp5_im_im_a2 0 x5_im_a2 1.0060478297984493e-09
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 4.564468597951206e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 44342619412.02872
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -44342619412.02872
Rp6_im_im_a2 0 x6_im_a2 4.564468597951206e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.5667721634228807e-09
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 26026752255.185856
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -26026752255.185856
Rp7_im_im_a2 0 x7_im_a2 1.5667721634228807e-09
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 9.023159406127145e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 16061967330.314383
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -16061967330.314383
Rp8_im_im_a2 0 x8_im_a2 9.023159406127145e-09
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 172926.1043144081
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 1.5033206177177289e+19
.ENDS s_equivalent
